US09255093B2
To the solution of 5-fluoro-6-(((4-(trifluoromethoxy)-3-(trifluoromethyl)phenyl)amino)methyl)-benzofuran-2-carbonitrile (637 mg, 1.523 mmol) in 15 mL DMF was added NH4Cl (326 mg, 6.09 mmol) and NaN3 (198 mg, 3.05 mmol). After the reaction mixture was stirred at room temperature overnight, the mixture was adjusted to pH=1 by addition of 1N HCl aqueous solution. The mixture was then diluted with AcOEt and washed with water, brine, dried over Na2SO4, and concentrated. The crude product was purified on basic HPLC (ammonium hydroxide modifier) 15-45% MeCN/Water to give N-((5-fluoro-2-(1H-tetrazol-5-yl)benzofuran-6-yl)methyl)-4-(trifluoromethoxy)-3-(trifluoromethyl)aniline (194 mg). LCMS retention time=1.41 minutes (LC method 1); MS (m+1)=462.1. 1H NMR (400 MHz, DMSO-d6) δ 4.50 (d, J=5.2 Hz, 2H), 6.93 (dd, J=9.2, 3.0 Hz, 1H), 7.00 (br. s., 1H), 7.05 (d, J=2.8 Hz, 1H), 7.33 (d, J=9.0 Hz, 1H), 7.61-7.69 (m, 2H), 7.75 (d, J=5.7 Hz, 1H).

reactant | 5-fluoro-6-(((4-(trifluoromethoxy)-3-(trifluoromethyl)phenyl)amino)methyl)-benzofuran-2-carbonitrile | 1.523 mmol, 637 mg | FC=1C(=CC2=C(C=C(O2)C#N)C1)CNC1=CC(=C(C=C1)OC(F)(F)F)C(F)(F)F | C18H9F7N2O2
reactant | NH4Cl | 6.09 mmol, 326 mg | [NH4+].[Cl-]
reactant | NaN3 | 3.05 mmol, 198 mg | [N-]=[N+]=[N-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | N-((5-fluoro-2-(1H-tetrazol-5-yl)benzofuran-6-yl)methyl)-4-(trifluoromethoxy)-3-(trifluoromethyl)aniline | 194 mg | FC=1C(=CC2=C(C=C(O2)C2=NN=NN2)C1)CNC1=CC(=C(C=C1)OC(F)(F)F)C(F)(F)F | C18H10F7N5O2
